US05545747
A reaction vessel was charged with 140 g of thionyl chloride and 100 ml of benzene, and 100 g of 3-pentylcyclobutanecarboxylic acid was added dropwise under reflux with stirring. The resultant mixture was refluxed with stirring for 8 hours and the excess thionyl chloride was azeotropically distilled off with benzene and the residue was distilled under reduced pressure to obtain 101 g (yield 91%) of 3-pentylcyclobutanecarboxylic acid chloride.

reactant | thionyl chloride | 140 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-pentylcyclobutanecarboxylic acid | 100 g | C(CCCC)C1CC(C1)C(=O)O | C10H18O2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-pentylcyclobutanecarboxylic acid chloride | 101 g, yield 91% | C(CCCC)C1CC(C1)C(=O)Cl | C10H17ClO
